US05650422
By a method similar to that of Example 44 condensation of 2-chloromethyl-4-isopropyl-6,7-dimethoxysaccharin (0.095 g) and 1-phenyltetrazol-5-thiol sodium salt (0.120 g) in acetonitrile (2 mL) and purification of the product by crystallization from ethanol afforded 2-(1-phenyltetrazol-5-yl)thiomethyl-4-isopropyl-6,7-dimethoxy-6-methylsaccharin, 0.099 g, 70% yield, mp 169°-171° C.

reactant | 2-chloromethyl-4-isopropyl-6,7-dimethoxysaccharin | 0.095 g | ClCN1S(=O)(=O)C2=C(C(=CC(=C2C1=O)C(C)C)OC)OC | C13H16ClNO5S
reactant | 1-phenyltetrazol-5-thiol sodium salt | 0.120 g | [Na].C1(=CC=CC=C1)N1N=NN=C1S
reactant | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 2-(1-phenyltetrazol-5-yl)thiomethyl-4-isopropyl-6,7-dimethoxy-6-methylsaccharin | 70% yield | C1(=CC=CC=C1)N1N=NN=C1SCN1S(=O)(=O)C2=C(C(CC(=C2C1=O)C(C)C)(C)OC)OC | C21H25N5O5S2
